US07935815B2
Synthesis of methyl 5-oxo-2-(2-trifluoromethylphenyl)hexanoate
2-(2-Trifluoromethylphenyl)pentanedioic acid 5-tert-butyl ester 1-methyl ester (3 g) was dissolved in dichloromethane (30 mL). Trifluoroacetic acid (12 mL) was added and the reaction solution was stirred at room temperature for one hour. The reaction solution was concentrated under reduced pressure, and the resulting residue was dissolved in toluene (60 mL). Thionyl chloride (1.89 mL) was added and the reaction solution was stirred at 80° C. for three hours. The reaction solution was concentrated under reduced pressure and diluted with THF (50 mL). Then, tributylphosphine (2.37 mL) was added at −20° C. and the reaction solution was stirred for 20 minutes. A 0.97 M solution of methylmagnesium bromide in THF (9.78 mL) was added dropwise to the reaction solution, and the reaction solution was stirred for 15 minutes. Then, a 1 N hydrochloric acid aqueous solution was added, followed by extraction with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (carrier: Chromatorex Si; elution solvent: heptane:ethyl acetate=19:1→heptane:ethyl acetate=1:1) to obtain the title compound (728 mg). The property values of the compound are as follows.

reactant | 2-(2-Trifluoromethylphenyl)pentanedioic acid 5-tert-butyl ester 1-methyl ester | 3 g | COC(C(CCC(=O)OC(C)(C)C)C1=C(C=CC=C1)C(F)(F)F)=O | C17H21F3O4
reactant | Trifluoroacetic acid | 12 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | methyl 5-oxo-2-(2-trifluoromethylphenyl)hexanoate | 728 mg | O=C(CCC(C(=O)OC)C1=C(C=CC=C1)C(F)(F)F)C | C14H15F3O3
